US08957064B2
2-(1-{4-[6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzyl}-piperidine-4-yl)-quinoxaline
The compound is prepared in analogy to example 33.0. 216 mg (0.756 mmol) 2-Piperidine-4-ylquinoxaline are reacted with 200 mg (0.63 mmol) 4-[6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde. After the usual work-up and purification 201 mg (58.9%) of the title compound are obtained.

reactant | 2-Piperidine-4-ylquinoxaline | 0.756 mmol, 216 mg | N1CCC(CC1)C1=NC2=CC=CC=C2N=C1 | C13H15N3
reactant | 4-[6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzaldehyde | 0.63 mmol, 200 mg | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(C=O)C=C2 | C19H12FN3O
product | 2-(1-{4-[6-(4-fluorophenyl)-imidazo[1,2-a]pyrimidin-7-yl]-benzyl}-piperidine-4-yl)-quinoxaline | FC1=CC=C(C=C1)C=1C(=NC=2N(C1)C=CN2)C2=CC=C(CN1CCC(CC1)C1=NC3=CC=CC=C3N=C1)C=C2 | C32H27FN6
